US04652559
A mixture of 1.1 g of (±)-(E)-N-[2[(3-methoxyphenyl)methylene]cyclohexyl]azetidine, prepared by analogy to the preparation of the 4-methoxy compound of Example 5, and 5 ml of 48% hydrogen bromide in water solution was stirred and heated at 95° C. for 2.75 hr. The resulting mixture was cooled and extracted with diethyl ether. The ether extract was dried with magnesium sulfate and evaporated to give 0.8 g of N-[2-[(3-hydroxyphenyl)methylene]cyclohexyl]azetidine as an oil which deposited as crystals upon standing overnight. Filtration with diethyl ether gave 0.21 g of this 3-hydroxyphenyl compound as a pale yellow solid. The UV, IR, mass spectrum and NMR analysis indicated the named product was present. Gas chromatography (GC) analysis indicated that this product was a mixture containing about 92% of (±)-(E)-1-[2-[(3-hydroxyphenyl)methylene]cyclohexyl]azetidine, mp 160°-165° C. and 8% of the starting 1-[2-(3-methoxyphenyl)methylene]cyclohexyl]azetidine, mp 136°-137° C.

reactant | (±)-(E)-N-[2[(3-methoxyphenyl)methylene]cyclohexyl]azetidine | 1.1 g | COC=1C=C(C=CC1)\C=C/1\C(CCCC1)N1CCC1 | C17H23NO
reactant | hydrogen bromide | 5 ml | Br | BrH
solvent | water | O | H2O
product | N-[2-[(3-hydroxyphenyl)methylene]cyclohexyl]azetidine | 0.8 g | OC=1C=C(C=CC1)C=C1C(CCCC1)N1CCC1 | C16H21NO
